US08067611B2
a) Preparation of methyl[5-(4-chlorophenyl)-3-methyl-1H-pyrazol-4-yl]acetate
2.236 g (45 mmol) of hydrazine hydrate were added to a solution of 10 g (37 mmol) of methyl 3-[(4-chlorophenyl)carbonyl]-4-oxopentanoate in ethanol (100 ml). The mixture was heated under reflux for 6 hours and then added to water and extracted with dichloromethane. The combined organic phases were dried with magnesium sulfate, filtered and concentrated. This gave 6.9 g of product (63% of theory); NMR (CDCl3, 400 MHz): 2.28 (s, 3H); 3.5 (s, 2H); 3.7 (s, 3H); 7.39 (d, 2H); 7.5 (d, 2H).

reactant | hydrazine hydrate | 45 mmol, 2.236 g | O.NN
reactant | methyl 3-[(4-chlorophenyl)carbonyl]-4-oxopentanoate | 37 mmol, 10 g | ClC1=CC=C(C=C1)C(=O)C(CC(=O)OC)C(C)=O | C13H13ClO4
reactant | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | methyl[5-(4-chlorophenyl)-3-methyl-1H-pyrazol-4-yl]acetate | COC(CC=1C(=NNC1C1=CC=C(C=C1)Cl)C)=O | C13H13ClN2O2
